US03939155
A suspension of 1 part of 4',5'-dihydro-3-methoxyspiro[estra-2,5(10)-diene-17,2'(3'H)-furan]-4'-ol in 20 parts of aqueous 90% acetic acid is stirred for 13/4 hours, during which solution occurs. Approximately 100 parts of cold water is thereupon introduced, whereupon the precipitate which forms is filtered off, washed with water, dried in air, and recrystallized from ethyl acetate to give 4',5'-dihydro-4'-hydroxyspiro[estr-5(10)-ene-17,2'(3'H)-furan] -3-one melting at 118°- 123°.

reactant | 4',5'-dihydro-3-methoxyspiro[estra-2,5(10)-diene-17,2'(3'H)-furan]-4'-ol | COC=1CC=2CC[C@H]3[C@@H]4CCC5(OCC(C5)O)[C@@]4(C)CC[C@@H]3C2CC1 | C22H32O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4',5'-dihydro-4'-hydroxyspiro[estr-5(10)-ene-17,2'(3'H)-furan] -3-one | OC1CC2(OC1)[C@]1(C)[C@@H](CC2)[C@@H]2CCC=3CC(CCC3[C@H]2CC1)=O | C21H30O3
